US07723330B2
Step D: Preparation of 2-(cyclohexylmethyl)-5-(3-fluoro-4-(3-iodo-1-(4-methoxybenzyl)-1H-pyrazolo[3,4-b]pyridin-4-yloxy)phenyl)-3-methylpyrimidin-4(3H)-one:
A mixture of 2-(cyclohexylmethyl)-5-(3-fluoro-4-hydroxyphenyl)-3-methylpyrimidin-4(3H)-one (0.026 g, 0.082 mmol), 4-chloro-3-iodo-1-(4-methoxybenzyl)-1H-pyrazolo[3,4-b]pyridine (0.033 g, 0.083 mmol; prepared according to the procedure of Example 84, Step D), and DMAP (0.020 g, 0.165 mmol) in bromobenzene (1 mL) under N2 was stirred at 150° C. for 4 days. The reaction was concentrated in vacuo to remove as much bromobenzene as possible and then purified directly by flash column chromatography, eluting with 20:1 CH2Cl2/MeOH. The desired product (0.048 g, 86%) was obtained as a pale yellow solid. LRMS (APCI pos) m/e 680 (M+1).

reactant | 2-(cyclohexylmethyl)-5-(3-fluoro-4-hydroxyphenyl)-3-methylpyrimidin-4(3H)-one | 0.082 mmol, 0.026 g | C1(CCCCC1)CC1=NC=C(C(N1C)=O)C1=CC(=C(C=C1)O)F | C18H21FN2O2
reactant | 4-chloro-3-iodo-1-(4-methoxybenzyl)-1H-pyrazolo[3,4-b]pyridine | ClC1=C2C(=NC=C1)N(N=C2I)CC2=CC=C(C=C2)OC | C14H11ClIN3O
catalyst | DMAP | 0.165 mmol, 0.020 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | bromobenzene | 1 mL | BrC1=CC=CC=C1 | C6H5Br
product | 2-(cyclohexylmethyl)-5-(3-fluoro-4-(3-iodo-1-(4-methoxybenzyl)-1H-pyrazolo[3,4-b]pyridin-4-yloxy)phenyl)-3-methylpyrimidin-4(3H)-one | 0.048 g, 86% | C1(CCCCC1)CC1=NC=C(C(N1C)=O)C1=CC(=C(C=C1)OC1=C2C(=NC=C1)N(N=C2I)CC2=CC=C(C=C2)OC)F | C32H31FIN5O3
